US04302588
3.3 g of 5-(2,3-epoxypropoxy)-8-benzyloxy-3,4-dihydrocarbostyril was dissolved in 50 ml of dimethyl sulfoxide, and 1.3 g of 50% sodium hydride was added to the solution followed by stirring at room temperature for 30 minutes. 2.9 g of methyl iodide dissolved in 10 ml of dimethyl sulfoxide was added dropwise thereto, and the resulting mixture was stirred at room temperature for 2 hours. 200 ml of a saturated aqueous solution of ammonium chloride was added to the reaction mixture followed by extracting with chloroform. The chloroform layer was washed with water and then dried over anhydrous sodium sulfate. The chloroform was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography and recrystallized from ethanol to obtain 1.7 g of 1-methyl-5-(2,3-epoxypropoxy)-8-benzyloxy-3,4-dihydrocarbostyril as yellow needle-like crystals having a melting point of 111°-112.5° C.

reactant | 5-(2,3-epoxypropoxy)-8-benzyloxy-3,4-dihydrocarbostyril | 3.3 g | O1C(COC2=C3CCC(NC3=C(C=C2)OCC2=CC=CC=C2)=O)C1 | C19H19NO4
reactant | sodium hydride | 1.3 g | [H-].[Na+]
reactant | methyl iodide | 2.9 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 1-methyl-5-(2,3-epoxypropoxy)-8-benzyloxy-3,4-dihydrocarbostyril | 1.7 g | CN1C(=O)CCC2=C(C=CC(=C12)OCC1=CC=CC=C1)OCC1CO1 | C20H21NO4
